US08383848B2
Synthesis of (5,6,7,8-tetrahydro-5,5,8,8-tetramethylbenz-f-indenyl) (indenyl)ethane
A 500 mL three-neck flask replaced with nitrogen was charged with 21.6 g (purity 72%, 42 mmol) of the yellow oily product and 274 mL of tetrahydrofuran, and cooled in an ice bath, and then 88.5 mL (1.59 M, 141 mmol) of a hexane solution of n-butyllithium was added dropwise. The color of the solution was turned from colorless to yellow. The temperature of this solution was gradually raised to room temperature, and the solution was further stirred for 1 hour. While this solution was cooled in a water bath, 137 mL of distilled water was added dropwise. After the organic layer was separated, the aqueous layer was extracted with ethyl acetate. The separated organic layer and the extract were combined, washed with an aqueous saturated sodium chloride solution two times, and dried with sodium sulfate. Volatile components were distilled off under reduced pressure, and the resulting yellow oily product was purified by column chromatography (developing solvent: heptane/methylene chloride v/v=9/1), and recrystallized with ethanol/methylene chloride. Based on the following 1H NMR (400 MHz, CDCl3) data, the resulting pale yellow solid was identified to be (5,6,7,8-tetrahydro-5,5,8,8-tetramethylbenz-f-inden-3-yl) (inden-3-yl)ethane. Yield amount 9.1 g (purity>98%, 24 mmol, yield 57%).

reactant | tetrahydrofuran | 274 mL | O1CCCC1 | C4H8O
reactant | hexane | 141 mmol, 1.59 M, 88.5 mL | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
solvent | water | 137 mL | O | H2O
product | (indenyl)ethane | C1(C=CC2=CC=CC=C12)CC | C11H12
